spice
* Netlist for the given schematic

*** Voltage and Current Sources ***
VDD 4 0 DC VDD
IB 3 4 DC IB

*** Resistors ***
RD 4 1 RD
R1 5 X R1

*** Capacitor ***
Cin X 1 Cin

*** NMOS Transistors ***
M1 1 X 2 2 NMOS
M2 2 5 0 0 NMOS

*** PMOS Transistors ***
M3 3 2 3 3 PMOS
MB 2 2 3 3 PMOS

*** Additional Definitions ***
.model NMOS nmos
.model PMOS pmos

.end